US09212190B2
Into a 50-mL round-bottom flask placed a solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (170 mg, 0.37 mmol, 1.00 equiv) in dichloromethane (4 mL) was added hydrochloric acid (12 M, 0.5 mL) at 0° C. and the resulting solution was stirred for 4 hr at 25° C. The reaction was then quenched with saturated aqueous sodium bicarbonate, extracted with 3×50 mL of DCM. The organic layers were combined and concentrated under vacuum. The crude product (150 mg) was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 100 mM NH4HCO3 and CH3CN (6.0% CH3CN up to 60% in 20 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide (83 mg, 62%) as a white solid. MS (ES): m/z 361 [M+H]+. 1H NMR (300 MHz, CD3OD): δ 8.43 (1H, s), 5.28 (1H, m), 3.76 (1H, m), 3.00-3.28 (1H, m), 2.97-2.99 (2H, m), 2.66-2.73 (1H, m), 2.42-2.49 (1H, m), 2.36 (3H, s), 2.29-2.18 (4H, m), 2.00-2.03 (2H, m), 1.65-1.57 (2H-m), 1.26-1.35 (2H, m).

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.37 mmol, 170 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C23H32N4O4S
reactant | hydrochloric acid | 12 M, 0.5 mL | Cl | ClH
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide | 83 mg, 62% | CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N | C18H24N4O2S
